US04504305
EXAMPLE 7: 5-(4-acetamidophenyl)-2-[1-(ethoxyimino)propyl]-3-hydroxy-2-cyclohexen-1-one
Into 10 ml of tetrahydrofuran was dissolved 2.0 g of 5-(4-acetamidophenyl)-2-propionyl-3-hydroxy-2-cyclohexen-1-one and to the solution was added 1.0 g of aqueous solution containing 50% of ethoxyamine. The mixture was kept for 15 hours at room temperature and it was poured into ice water and the crystal sedimented was collected with a filtering step. The crystal was dissolved in 20 ml of chloroform and the solution was washed with water and extracted with 15 ml of aqueous solution containing 5% of sodium hydroxide. To the alkaline solution was added a dilute hydrochloric acid solution and the crystal sedimented was extracted with chloroform. The solution was washed with water and dried with anhydrous magnesium sulfate and the chloroform was distilled off from it under reduced pressure. Thus 1.4 g of the desired compound was obtained. It was in the form of pale yellow crystals having a melting point of 135°-136° C.

reactant | 5-(4-acetamidophenyl)-2-propionyl-3-hydroxy-2-cyclohexen-1-one | 2.0 g | C(C)(=O)NC1=CC=C(C=C1)C1CC(=C(C(C1)=O)C(CC)=O)O | C17H19NO4
reactant | ethoxyamine | C(C)ON | C2H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(4-acetamidophenyl)-2-[1-(ethoxyimino)propyl]-3-hydroxy-2-cyclohexen-1-one | 1.4 g | C(C)(=O)NC1=CC=C(C=C1)C1CC(=C(C(C1)=O)C(CC)=NOCC)O | C19H24N2O4
